US08067621B2
Step 4: 3-(4-Chloro-benzenesulfonyl)-3-(2,3,6-trifluoro-phenyl)-propan-1-ol
Tert-butyl-[3-(4-chloro-benzenesulfonyl)-3-(2,3,6-trifluoro-phenyl)-propoxy]-dimethyl-silane (2.62 g, 5.47 mmol) was dissolved in 80 mL of THF and tetrabutylammonium fluoride (1.96 g, 7.51 mmol) was added at room temperature. The solution was stirred at room temperature overnight. 200 mL of EtOAc and 200 mL of water were added and the organic layer was separated. The organic layer was dried over Na2SO4 and concentrated. The product was purified by column chromatography using hex./EtOAc as the eluent (gradient from 0/100 to 75/25 in 45 min, 1.38 g, 69%). 1H NMR (CDCl3 400 MHz) δ 7.63 (d, J=8.8 Hz, 2H), 7.45 (d, J=8.8 Hz, 2H), 7.12 (m, 1H), 6.82 (m, 0.5H), 6.71 (m, 0.5H), 4.91 (m, 1H), 3.89 (m, 1H), 4.44 (m, 1H), 2.60 (m, 2H).

reactant | Tert-butyl-[3-(4-chloro-benzenesulfonyl)-3-(2,3,6-trifluoro-phenyl)-propoxy]-dimethyl-silane | 5.47 mmol, 2.62 g | C(C)(C)(C)[Si](C)(C)OCCC(C1=C(C(=CC=C1F)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C21H26ClF3O3SSi
reactant | tetrabutylammonium fluoride | 7.51 mmol, 1.96 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 200 mL | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-(4-Chloro-benzenesulfonyl)-3-(2,3,6-trifluoro-phenyl)-propan-1-ol | ClC1=CC=C(C=C1)S(=O)(=O)C(CCO)C1=C(C(=CC=C1F)F)F | C15H12ClF3O3S
